US05693636
e) methyl 4-(phenylethylamino)crotonate
To a stirred solution of phenethylamine (20 mL, 160 mmol) in anhydrous THF (250 mL) was added NaHCO3 (7 g) followed by methyl 4-bromocrotonate (10 mL, 84 mmol). After stirring for 4 h the reaction was concentrated to approximately half the volume and filtered through a pad of silica gel and eluted with 2% MeOH/CHCl3 to wash off the product. The crude product obtained after evaporation of the filtrate was purified by flash chromatography (silica gel, 2% MeOH/CHCl3) to give the title compound as a slightly yellow liquid (16.5 g, 81%). TLC Rf 0.53 (5% MeOH/CHCl3); 1H NMR (CDCl3) δ1.2 (1H, s), 2.8 (4H, br s), 3.35 (2H, dd), 3.7 (3H, s), 5.95 (1H, dt), 7.0 (1H, dt), 7.25 (5H, br s)

reactant | phenethylamine | 160 mmol, 20 mL | C(CC1=CC=CC=C1)N | C8H11N
reactant | NaHCO3 | 7 g | C(=O)(O)[O-].[Na+]
reactant | methyl 4-bromocrotonate | 84 mmol, 10 mL | BrC/C=C/C(=O)OC | C5H7BrO2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | methyl 4-(phenylethylamino)crotonate | C1(=CC=CC=C1)CCNC/C=C/C(=O)OC | C13H17NO2
